US05973149
In THF/Toluene 22/78 by Volume Respectively Medium
Example 17 was repeated using a mixture of 44 ml of THF and 156 ml of toluene.

reactant | THF | 44 ml | C1CCOC1 | C4H8O
reactant | toluene | 156 ml | C1(=CC=CC=C1)C | C7H8
product | THF Toluene | C1CCOC1.C1(=CC=CC=C1)C | InChI=1S/C7H8.C4H8O/c1-7-5-3-2-4-6-7;1-2-4-5-3-1/h2-6H,1H3;1-4H2
